US06774258B2
To a mixture of 118 g of 4-methyl-1,4-pentanediol, 111 g of triethylamine and 400 ml of toluene at 20° C., 157 g of 5-norbornene-2-carbonyl chloride was added over one hour. After 5 hours of stirring, 200 ml of water was added to the reaction solution to stop the reaction whereupon the mixture separated. The organic layer was washed with water and saturated sodium chloride water, dried over anhydrous sodium sulfate, and concentrated in vacuum. It was purified by vacuum distillation, collecting 214 g of 4-hydroxy-4-methylpentyl 5-norbornene-2-carboxylate (boiling point: 111-113° C./27 Pa, yield: 90%).

reactant | 4-methyl-1,4-pentanediol | 118 g | CC(CCCO)(C)O | C6H14O2
reactant | triethylamine | 111 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | 5-norbornene-2-carbonyl chloride | 157 g | C12C(CC(C=C1)C2)C(=O)Cl | C8H9ClO
solvent | water | 200 ml | O | H2O
product | 4-hydroxy-4-methylpentyl 5-norbornene-2-carboxylate | 214 g, yield: 90% | C12C(CC(C=C1)C2)C(=O)OCCCC(C)(C)O | C14H22O3
